US07696213B2
(E)-8-cyclopentyl-6-(2-hydroxyvinyl)-4-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-7(8H)-one (Compound 120)
6-bromo-8-cyclopentyl-4-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-7(8H)-one (336 mg, 1.0 mmole), 1-(vinyloxy)butane (501 mg, 5.0 mmole), N-cyclohexyl-N-methylcyclohexanamine (254 mg, 1.3 mmole), tri-tert-butylphosphonium tetrafluoroborate (8.70 mg, 0.03 mmole), lithium chloride (127 mg, 3.0 mmole), tris(dibenzylideneacetone)dipalladium(0)) (27.5 mg, 0.03 mmole) and 1,4-dioxane (10 ml) were added to a reaction vial equipped with a stir bar. The reaction vial was flushed with nitrogen, capped, and heated at 75° C. for 75 min. LCMS data indicated that both the intermediate vinyl ether and the product were obtained (4:6). The reaction mixture was cooled to ambient temperature, filtered through Celite and washed with dioxane (10 ml). The filtrate and washing were combined, and para-toluene sulfonic acid monohydrate (761 mg, 4.0 mmole) was added. The reaction was stirred at ambient temperature for 1 h. At this point LCMS data indicated that all of the intermediate vinyl ether hydrolyzed to the desired product. The solvent was removed under reduced pressure to a residue, and ethyl acetate (120 ml) was added, and washed with aqueous potassium carbonate solution (5 wt/v %), water, and brine. The organic layer was dried over sodium sulfate, and the solvent was removed under reduced pressure to a yellow solid residue, which was crystallized from boiling heptane. Upon cooling to ambient temperature, yellow crystals formed and collected by filtration to give the title compound (190 mg, 62% yield) after two steps.

reactant | 6-bromo-8-cyclopentyl-4-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-7(8H)-one | 1.0 mmole, 336 mg | BrC1=CC2=C(N=C(N=C2C)NC)N(C1=O)C1CCCC1 | C14H17BrN4O
reactant | 1-(vinyloxy)butane | 5.0 mmole, 501 mg | C(=C)OCCCC | C6H12O
reactant | N-cyclohexyl-N-methylcyclohexanamine | 1.3 mmole, 254 mg | C1(CCCCC1)N(C1CCCCC1)C | C13H25N
reactant | tri-tert-butylphosphonium tetrafluoroborate | 0.03 mmole, 8.70 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | lithium chloride | 3.0 mmole, 127 mg | [Cl-].[Li+]
reactant | para-toluene sulfonic acid monohydrate | 4.0 mmole, 761 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | vinyl ether | C(=C)OC=C | C4H6O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (E)-8-cyclopentyl-6-(2-hydroxyvinyl)-4-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-7(8H)-one | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2C)NC)\C=C\O)=O | C16H20N4O2
